US07569727B2
Preparation of 3-(4-{3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propoxy}-phenyl)-cyclohexanone O-methyl-oxime
109 mg of 3-(4-{3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propoxy}-phenyl)-cyclohexanone and 21 mg of O-methylhydroxylamine hydrochloride are stirred in 5 ml of pyridine at 85° C. for 3 hours. The reaction mixture is concentrated and the residue is stirred with tert-butyl methyl ether and 0.5N hydrochloric acid. After concentration of the organic phase and purification over silica gel, the title compound is obtained in the form of a colourless oil.

reactant | 3-(4-{3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propoxy}-phenyl)-cyclohexanone | 109 mg | ClC1=C(OCCCOC2=CC=C(C=C2)C2CC(CCC2)=O)C(=CC(=C1)OCC=C(Cl)Cl)Cl | C24H24Cl4O4
reactant | O-methylhydroxylamine hydrochloride | 21 mg | Cl.CON
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 3-(4-{3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propoxy}-phenyl)-cyclohexanone O-methyl-oxime | CON=C1CC(CCC1)C1=CC=C(C=C1)OCCCOC1=C(C=C(C=C1Cl)OCC=C(Cl)Cl)Cl | C25H27Cl4NO4
